US07790709B2
Preparation of (E)-N-Methyl-N-(3-methyl-benzo[b]thiophen-2-ylmethyl)-3-{4-[2-(4-methyl-piperazin-1-yl)-2-oxo-ethyl]-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl}acrylamide hydrochloride
According to the procedure of Example 1, except substituting methyl-(3-methyl-benzo[b]thiophen-2-ylmethyl)amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (E)-3-{4-[2-(4-methyl-piperazin-1-yl)-2-oxo-ethyl]-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl}acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound (0.18 g, 53%) was prepared as an off-white powder: 1H NMR (300 MHz, DMSO-d6) δ 10.91 (br s, 1H), 10.55 (br s, 1H), 8.61 (s, 1H), 8.18 (s, 1H), 7.88-7.86 (m, 1H), 7.75-7.72 (m, 1H), 7.61-7.52 (m, 1H), 7.42-7.28 (m, 3H), 5.14-4.89 (m, 2H), 4.42-4.38 (m, 1H), 4.01 (br s, 3H), 3.65 (s, 4H), 3.39 (br s, 4H), 3.16 (s, 2H), 3.04-2.94 (m, 3H), 2.74 (br s, 3H), 2.42 (s, 3H); MS (ESI) m/e 547 (M+H)+.

reactant | methyl-(3-methyl-benzo[b]thiophen-2-ylmethyl)amine | CNCC1=C(C2=C(S1)C=CC=C2)C | C11H13NS
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (E)-3-{4-[2-(4-methyl-piperazin-1-yl)-2-oxo-ethyl]-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl}acrylic acid hydrochloride | Cl.CN1CCN(CC1)C(CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O)=O
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
product | (E)-N-Methyl-N-(3-methyl-benzo[b]thiophen-2-ylmethyl)-3-{4-[2-(4-methyl-piperazin-1-yl)-2-oxo-ethyl]-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl}acrylamide hydrochloride | 0.18 g, 53% | Cl.CN(C(\C=C\C1=CC2=C(NC(CN(C2)CC(=O)N2CCN(CC2)C)=O)N=C1)=O)CC1=C(C2=C(S1)C=CC=C2)C | InChI=1S/C29H34N6O3S.ClH/c1-20-23-6-4-5-7-24(23)39-25(20)17-33(3)27(37)9-8-21-14-22-16-34(18-26(36)31-29(22)30-15-21)19-28(38)35-12-10-32(2)11-13-35;/h4-9,14-15H,10-13,16-19H2,1-3H3,(H,30,31,36);1H/b9-8+;
